US07598419B2
(E,E)-2-(3,4-Dihydroxybenzylaminocarbonyl)-3-(3-methoxy-4-hydroxy-5-nitrostyryl)acrylonitrile
The compound was prepared as described in Example 3 by adding 3-methoxy-4-hydroxy-5-nitrocinnamaldehyde (22 mg, 0.1 mmol) to N-(cyanoacetyl)3,4-dihydroxybenzylamide (21 mg, 0.1 mmol). After refluxing for 4 h and recrystallization from ethanol-water an orange solid was obtained (19 mg, 46%). The product gave the following analytical data:

reactant | 3-methoxy-4-hydroxy-5-nitrocinnamaldehyde | 0.1 mmol, 22 mg | COC=1C=C(C=CC=O)C=C(C1O)[N+](=O)[O-] | C10H9NO5
reactant | N-(cyanoacetyl)3,4-dihydroxybenzylamide | 0.1 mmol, 21 mg | C(#N)CC(=O)[N-]CC1=CC(=C(C=C1)O)O
product | (E,E)-2-(3,4-Dihydroxybenzylaminocarbonyl)-3-(3-methoxy-4-hydroxy-5-nitrostyryl)acrylonitrile | OC=1C=C(CNC(=O)\C(\C#N)=C\C=C\C2=CC(=C(C(=C2)[N+](=O)[O-])O)OC)C=CC1O | C20H17N3O7
